US06486333B1
Synthesis of N,N-dimethyl-N-geranyloxycarbonylmethyl-N-(3-(octadecanoylamino)propyl)ammonium chloride
A 36.86 g (0.100 mol) portion of N-octadecanoyl-N′,N′-dimethyl-1,3-diaminopropane and 100 ml of chloroform were put into a flask, and 23.30 g (0.101 mol) of geranyl chloroacetate was added thereto at 25° C. spending 5 minutes. The reaction mixture was stirred at 25° C. for 36 hours and then, after confirming by 1H-NMR that chloroacetate was mostly disappeared, the solvent was evaporated under a reduced pressure. The thus obtained viscous oil was dissolved in 200 ml of acetone and cooled to 5 to 10° C. to effect precipitation of a white precipitate. The supernatant solvent was discarded, and the precipitated was collected and dried under a reduced pressure to obtain the title compound (to be referred to as betaine ester (1) hereinafter) as a slightly brownish white solid. Yield 49.1 g (0.0819 mol; yield 81.9%).

reactant | N-octadecanoyl-N′,N′-dimethyl-1,3-diaminopropane | C(CCCCCCCCCCCCCCCCC)(=O)NCCCN(C)C | C23H48N2O
reactant | geranyl chloroacetate | 0.101 mol, 23.30 g | ClCC(=O)OC\C=C(/C)\CCC=C(C)C | C12H19ClO2
reactant | chloroacetate | ClCC(=O)[O-]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-dimethyl-N-geranyloxycarbonylmethyl-N-(3-(octadecanoylamino)propyl)ammonium chloride | yield 81.9% | [Cl-].C[N+](CCCNC(CCCCCCCCCCCCCCCCC)=O)(CC(=O)OC\C=C(/C)\CCC=C(C)C)C | InChI=1S/C35H66N2O3.ClH/c1-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-26-34(38)36-28-23-29-37(5,6)31-35(39)40-30-27-33(4)25-22-24-32(2)3;/h24,27H,7-23,25-26,28-31H2,1-6H3;1H/b33-27+;
